data/mechanism_extracts/OrgBiomolChem/10.1039_d4ob00105b.json
{"doi": "10.1039_d4ob00105b", "journal": "OrgBiomolChem", "is_review": false, "rxn_class_summary": "Electrochemical anti-Markovnikov hydroxyselenylation of aryl allyl ethers/allyl benzoates with diaryl diselenides to give β-hydroxy selenides under additive-free constant-current electrolysis", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "direct_SET"], "electrochemical_role": "Anodic oxidation of diphenyl diselenide (PhSeSePh) at graphite anode to generate phenylselenyl radical and phenylselenyl cation via a diselenide radical cation; cathode (Pt) reduces protons to H2", "key_intermediates": [{"name": "diphenyl diselenide radical cation [PhSe-SePh]•+ (I)", "smiles": null, "role": "transient"}, {"name": "phenylselenyl radical PhSe• (II)", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "phenylselenyl cation PhSe+ (III)", "smiles": null, "role": "reactive"}, {"name": "β-(phenylselanyl) carbon radical adduct (IV) from PhSe• addition to allyl ether", "smiles": null, "role": "reactive"}, {"name": "β-(phenylselanyl) benzylic/secondary carbocation (V) after one-electron anodic oxidation of IV", "smiles": null, "role": "reactive"}, {"name": "β-hydroxy selenide product 3 after water addition to V", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes PhSeSePh to a diselenide radical cation that fragments into PhSe• and PhSe+; PhSe• adds to the terminal alkene of the allyl ether generating a carbon radical, which is further anodically oxidized to a carbocation; water (present in CH3CN, ~10 equiv by Karl Fischer) attacks the cation to deliver the β-hydroxy selenide while protons are reduced at the Pt cathode to H2.", "rate_determining_step": "Anodic oxidation of diphenyl diselenide (Ep ≈ 1.40 V vs Ag/AgCl, lower than substrate at 1.75 V) initiates the cycle and is implicated as the triggering step", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 3 obtained in only 20% yield; TEMPO–PhSe adduct 59 ([M+H]+ = 314.1004) and TEMPO-trapped selenylated alkyl adduct 60 ([M+H]+ = 462.1906) detected by HRMS, supporting Se- and C-centered radical intermediates"}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "3 formed in 35%; BHT-trapped product 61 ([M+H]+ = 525.2287) detected by HRMS"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Only trace 3; PhSe-DPE radical adduct 62 ([M+H]+ = 337.0473) detected, confirming PhSe•"}, {"name": "PhSeCl", "smiles": "Cl[Se]c1ccccc1", "purpose": "intermediate_trap", "observation": "Gave product 3 in 30%, consistent with PhSe+ as a competent intermediate"}, {"name": "diphenyl disulfide (PhSSPh)", "smiles": "S(Sc1ccccc1)c1ccccc1", "purpose": "intermediate_trap", "observation": "No sulfur analogue 65 formed (0%), indicating S-S does not behave like Se-Se under these conditions"}, {"name": "O2 (balloon)", "smiles": "O=O", "purpose": "other", "observation": "Reaction still produced 3 in 95% with no α-seleno carbonyl byproduct, ruling out molecular O2 as the oxygen source"}, {"name": "H2O (Karl Fischer titration)", "smiles": "O", "purpose": "isotope_label", "observation": "~10 equiv water detected in CH3CN, identified as the source of the hydroxyl group in 3"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "stoichiometric_intermediate"], "evidence_strength": "strong", "notes": "Cyclic voltammetry shows 2a (PhSeSePh) oxidizes at 1.40 V while 1a oxidizes at 1.75 V, supporting that the diselenide—not the alkene—is oxidized first (distinct from a substrate-radical-cation pathway). PhSeCl serves as a competent PhSe+ surrogate giving 3 in 30%, supporting cation pathway V→3, while PhSSPh fails, indicating Se-specific reactivity. Water (adventitious from CH3CN) is the verified O source rather than O2."}
